US04927832
STEP A: 9-(1-pyrrolidinyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine
5 g of 9-chloro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine hydrochloride were dissolved in 12.5 ml of water and 8 ml of pyrrolidine were added. The mixture was refluxed with vigorous stirring for 5 hours and the excess pyrrolidine was evaporated off under reduced pressure. 25 ml of a saturated solution of sodium bicarbonate and then 50 ml of water were added followed by extraction with methylene chloride. The combined organic phases were washed with water, dried and concentrated to dryness under reduced pressure. The residue was chromatographed on silica and eluted with a mixture of methylene chloride and methanol (9-1) to obtain 2.25 g of the expected product with an Rf=0.20. 2.25 g of the product were crystallized from petroleum ether (b.p. 40°-70° C.) to obtain 2 g of the expected product melting about 62° C.

reactant | 9-chloro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine hydrochloride | 5 g | Cl.ClC1CCCCC=2C1=NC=CC2
reactant | pyrrolidine | 8 ml | N1CCCC1 | C4H9N
solvent | water | 12.5 ml | O | H2O
product | 9-(1-pyrrolidinyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine | 2.25 g | N1(CCCC1)C1CCCCC=2C1=NC=CC2 | C14H20N2
